US06028195
(a) 4,5-Dimethyl-2-nitrophenol
To 3,4-dimethylphenol(12.1 g, 0.1 mol), trifluoroacetic acid(250 ml) was added, and in water bath sodium nitrite(12.4 g, 0.18 mol) was added slowly. The resulting mixture was stirred at room temperature for 14 hours and concentrated under the reduced pressure to remove trifluoroacetic acid, followed by addition of water(150 ml), extracted with ether and purified by column chromatography to obtain the titled compound.

reactant | 3,4-dimethylphenol | 0.1 mol, 12.1 g | CC=1C=C(C=CC1C)O | C8H10O
reactant | trifluoroacetic acid | 250 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium nitrite | 0.18 mol, 12.4 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4,5-Dimethyl-2-nitrophenol | yield: 80% | CC1=CC(=C(C=C1C)O)[N+](=O)[O-] | C8H9NO3
